US09422324B2
Methods of Preparing (6R,8R,9S,13S,14S)-6-(6-methoxyhexyl)-13-methyl-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthrene-3,17-diol (I)
(8R,9S,13S,14S,17S)-3,17-bis(methoxymethoxy)-13-methyl-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthren-6-ol—To a solution of potassium tert-butoxide (8.87 g, 79.0 mmol) and diisopropylamine (11.2 mL, 79.0 mmol) in 80 mL of anhydrous THF cooled to −78° C. under argon is added n-butyllithium (49.4 mL, 79.0 mmol, 1.6 M in hexane) dropwise. The reaction mixture is stirred at −78° C. for 30-45 minutes. A solution of the compound from a) (5.7 g, 15.8 mmol) in 45 mL of THF is then added dropwise, and the reaction mixture is stirred for 3 hours at −78° C. During the addition of the compound from a), the reaction turns a deep red color. Trimethyl borate (10.6 mL, 94.8 mmol) is then added slowly, and the mixture is warmed to 0° C. and stirred for 2 hours. Hydrogen peroxide (24 mL of a 30% aq. solution) is then added, and the reaction mixture is warmed to room temperature and stirred for a further 1 hour. The reaction is cooled back to 0° C. and carefully quenched with a 10% aq. Na2S2O3 solution (70 ml). The resulting mixture is extracted with EtOAc (2×), and the combined organic extracts are dried (Na2SO4), filtered, and evaporated in vacuo to give a yellow/brown oil. Purification by silica gel column chromatography (256 EtOAc/Hex) affords the title compound as a white solid (3.5 g, 59%).

reactant | (8R,9S,13S,14S,17S)-3,17-bis(methoxymethoxy)-13-methyl-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthren-6-ol | COCOC=1C=CC=2[C@H]3CC[C@@]4([C@H](CC[C@H]4[C@@H]3CC(C2C1)O)OCOC)C | C22H32O5
reactant | potassium tert-butoxide | 79.0 mmol, 8.87 g | CC(C)([O-])C.[K+]
reactant | diisopropylamine | 79.0 mmol, 11.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 79.0 mmol, 1.6 M, 49.4 mL | C(CCC)[Li]
reactant | Trimethyl borate | 94.8 mmol, 10.6 mL | B(OC)(OC)OC | C3H9BO3
reactant | Hydrogen peroxide | OO | H2O2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 45 mL | C1CCOC1 | C4H8O
product | (6R,8R,9S,13S,14S)-6-(6-methoxyhexyl)-13-methyl-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthrene-3,17-diol | 3.5 g, 59% | COCCCCCC[C@H]1C=2C=C(C=CC2[C@H]2CC[C@@]3(C(CC[C@H]3[C@@H]2C1)O)C)O | C25H38O3
